US06380218B1
N-Propyl-2-(pyridin-3-yloxy)-nicotinamide
To a solution of 2-(pyridin-3-yloxy)-nicotinic acid (0.100 g 0.462 mmole), BOP (0.205 grams, 0.463 mmole) and DIEA (0.242 μl) in dimethylformamide (5 ml) was added n-propyl amine (40 μl, 0.486 mmole) and stirred for 4 hours at room temperature. The reaction was quenched with 10 μl water and extracted with ethyl acetate. The combined organics were washed with alternating portions of 5% citric acid and sat'd bicarb, dried over Na2SO4, filtered and concentrated to a product which was purified by chromatography on silica gel eluting with diethyl ether to give a white crystalline solid (0.068 g). M.P. 55-56° C.; 1H H NMR (400 mhz, CDCl3) d 0.98 (t, J=7.3 Hz, 3H), 1.61-1.70 (m, 2H), 3.45-3.50 (m, 2H), 7.19 (dd, J=7.5 Hz, 4.8 Hz, 1H), 7.38-7.41 (m, 1H), 7.52-7.55 (m, 1H), 7.72 (bs, 1H), 8.16 (dd, J=4.8 hz, 2.1 Hz, 1H), 8.52-8.63 (m, 3H).

reactant | 2-(pyridin-3-yloxy)-nicotinic acid | 0.462 mmole, 0.100 g | N1=CC(=CC=C1)OC1=C(C(=O)O)C=CC=N1 | C11H8N2O3
reactant | BOP | 0.463 mmole, 0.205 grams | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.242 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | n-propyl amine | 0.486 mmole, 40 μl | C(CC)N | C3H9N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Propyl-2-(pyridin-3-yloxy)-nicotinamide | 0.068 g | C(CC)NC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C14H15N3O2
